US05107038
Preparation of 4-tert-butyl-cyclohexanol
A mixture composed of 100 g (0.649 mole) of 4-tert-butyl-cyclohexanone, 1.35 g of the catalyst prepared as indicated in Example 1 and 150 g of cyclohexane were put into an autoclave under nitrogen and then hydrogen was introduced until the pressure settled at about 106Pa. The mixture was then heated to 70° and the reaction was followed by gas chromatography. The reaction was stopped by cooling and the autoclave was flushed with nitrogen. After filtering, the catalyst was recovered under argon flow, washed with cyclohexane and recycled for the following hydrogenation operations. The clear filtrate was evaporated to give a residue that, once distilled, provided 95.15 g of an isomeric mixture containing 87.7% of cis isomer.

reactant | 4-tert-butyl-cyclohexanone | 0.649 mole, 100 g | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | hydrogen | [H][H] | H2
solvent | cyclohexane | 150 g | C1CCCCC1 | C6H12
product | 4-tert-butyl-cyclohexanol | 95.15 g | C(C)(C)(C)C1CCC(CC1)O | C10H20O
